
* LM3915 Bar/dot logarithmic display driver.

* Model by Geoff Western (aka Alec_t)
* V1.2

* Limitations / assumptions / approximations :-
* Pin 9 bias arrangement, Ref source resistance Rs, and Ref plateau at V+ -0.3 are speculative.
* Clamp diodes D1-D10 are a kludge to prevent B1-B10 producing fatal run-time errors in the sim
* for unconnected pins, so introduce slight inaccuracy.
* Temperature effects, operating limits and comparator offsets are not modelled.

.subckt lm3915 Bar/_dot Rhi Sig V+ V- Adj L1 L10 L2 L3 L4 L5 L6 L7 L8 L9 Ref Rlo
B1 L1 V- I=1u-10*i(rs)*(V(sig)>V(d1))*((V(sig)<(V(d2)+1m))|(V(Bar/_dot)+0.1>=V(v+)))
B2 L2 V- I=1u-10*i(rs)*(V(sig)>V(d2))*((V(sig)<V(d3)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B3 L3 V- I=1u-10*i(rs)*(V(sig)>V(d3))*((V(sig)<V(d4)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B4 L4 V- I=1u-10*i(rs)*(V(sig)>V(d4))*((V(sig)<V(d5)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B5 L5 V- I=1u-10*i(rs)*(V(sig)>V(d5))*((V(sig)<V(d6)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B6 L6 V- I=1u-10*i(rs)*(V(sig)>V(d6))*((V(sig)<V(d7)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B7 L7 V- I=1u-10*i(rs)*(V(sig)>V(d7))*((V(sig)<V(d8)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B8 L8 V- I=1u-10*i(rs)*(V(sig)>V(d8))*((V(sig)<V(d9)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B9 L9 V- I=1u-10*i(rs)*(V(sig)>V(d9))*((V(sig)<V(rhi)+1m)|(V(Bar/_dot)+0.1>=V(v+)))
B10 L10 V- I=1u-10*i(rs)*(V(sig)>V(rhi))*((V(Bar/_dot)+0.1>=V(v+))|(V(Bar/_dot)>=V(L9)-0.9))
Ric V+ V- 4k
D1 V- L1 D
D2 V- L2 D
D3 V- L3 D
D4 V- L4 D
D5 V- L5 D
D6 V- L6 D
D7 V- L7 D
D8 V- L8 D
D9 V- L9 D
D10 V- L10 D
Rm2 Bar/_dot V- 10meg
I1 V+ Adj 75µ
Rs N001 V- 50
B11 Ref N001 V=min(v(v+)-v(v-)-.3,1.28+v(adj)-v(v-))
B1a L1 V- I=150u*(V(Bar/_dot)<(V(v+)-0.1))*(V(sig)>V(d1))
B15 V+ V- I=1m1-4*i(B11)
Rm1 V+ Bar/_dot 350k
R1 Rlo d1 1.24k
R2 d1 d2 0.51k
R3 d2 d3 0.73k
R4 d3 d4 1.03k
R5 d4 d5 1.45k
R6 d5 d6 2.05k
R7 d6 d7 2.9k
R8 d7 d8 4.1k
R9 d8 d9 5.8k
R10 d9 Rhi 8.2k
Rsig Sig N002 20k
D11 V- N002 D
I2 N002 V- 25n
.ends lm3915





